US05041510
A stirred solution of 93.1 g (1 mole) of aniline, 342.1 g (2 mole) of benzyl bromide, and 252 g (3 mole) of sodium bicarbonate in dimethylsulfoxide is heated at 90° C. for three hours. After cooling to room temperature, the reaction mixture is poured into a four-fold excess of water, and the aqueous solution is extracted with methylene chloride. The combined organics are filtered through cotton and evaporated to yield N,N-dibenzylaniline, which is purified by flash chromatography.

reactant | aniline | 1 mole, 93.1 g | NC1=CC=CC=C1 | C6H7N
reactant | benzyl bromide | 2 mole, 342.1 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | sodium bicarbonate | 3 mole, 252 g | C([O-])(O)=O.[Na+]
reactant | water | O | H2O
solvent | dimethylsulfoxide | CS(=O)C | C2H6OS
product | N,N-dibenzylaniline | C(C1=CC=CC=C1)N(C1=CC=CC=C1)CC1=CC=CC=C1 | C20H19N
